data/mechanisms/records/IMS8-EQ8.94.json
{"mechanism_id": "IMS8-EQ8.94", "species": [{"species_id": "ee_oxocarbenium_precursor", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:1]=[O+:2][CH2:7][CH2:8][CH2:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_pentanal_ion", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:1]=[OH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "butene_neutral", "mapped_smiles": "[CH2:7]=[CH:8][CH2:9][CH3:10]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ee_oxocarbenium_precursor"]}, {"state_id": "state_products", "species_ids": ["protonated_pentanal_ion", "butene_neutral"]}], "steps": [{"step_id": "step_rH_alkene_loss_to_heteroatom", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_94", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_alkene_loss_to_heteroatom", "support_type": "textbook_proposed", "locator": {"page": 205, "equation": "8.94", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements (EE+ ion rearrangements)"}, "confidence": 0.8, "curator_note": "Equation 8.94, the single horizontal reaction arrow labelled 'r H'. SHARED SUBSTRATE: Equations 8.92-8.95 are four competing decompositions of ONE AND THE SAME even-electron (EE+) ion. The figure block draws that ion's parent at its left edge -- the OE+. molecular ion R'(CH2)3CH(R)-Y(+.)-(CH2)3R\" with '+.' printed on Y -- and four reaction arrows labelled 'alpha' fanning out from it, one into each numbered equation. The parent carries 2 drawn fishhooks (one leaving the C-R sigma bond, one leaving the '+.' odd electron on Y, both converging on the forming C=Y(+) pi bond); the third, homolysis hook that releases R. is NOT drawn, R. is simply implied by the 'alpha' label. That alpha-cleavage is an unnumbered preamble shared by all four equations and is NOT encoded in this record, which covers only the numbered 'r H' arrow. INSTANTIATION (convention F): the scheme is generic in Y, R, R' and R\"; this record uses Y = O, R' = CH3, R\" = CH3 (and R = CH3 for the un-encoded parent), so the EE+ ion is the oxocarbenium CH3(CH2)3CH=O(+)-(CH2)3CH3 (C9H19O+, curator-computed monoisotopic m/z 143.1430; it would arise by loss of CH3. from butyl hexan-2-yl ether, M+. m/z 158.1665). Y = O is the assignment the drawing forces: Y carries exactly three bonds both before (=CH plus one alkyl) and after the reaction, with no fourth substituent drawn; the nitrogen case quoted in the running text (CH2=N(+)RCH2CH2CD2CH3, Equation 8.93) would require that extra substituent. NO m/z and NO intensity is printed anywhere on page 205, so every mass in this record is curator-computed, every species is detected=false and the peak status is 'inferred' (convention F). REACTION AS DRAWN: here the H-receptor site is the heteroatom Y and the ring bond running into it is the Y-C SINGLE bond, so - per the p. 205 text, 'With only a single bond at this site (8.94 and 8.95), cleavage of this bond is required (possibly in concert with H rearrangement), and a variety of transition-state ring sizes is observed' - that bond must break. The book does NOT draw a definite ring: it abbreviates the whole donor chain as the box 'R\"-(C3H5)' with one H written out above it, the H on the left vertical bond and Y on the right vertical bond, deliberately leaving the H origin open. The running text quantifies it for the Equation 8.96(b-d) ions: 'C3H6 loss involving the transfer of ~30% alpha-H, ~20% beta-H, and ~50% gamma-H', with 'persuasive evidence that this does not result from H scrambling'. CURATOR CHOICE: taken literally as the two-bonds-break / two-bonds-form process the four arcs describe, the scheme is self-consistent only for the BETA hydrogen, because the new pi bond must join the carbon that lost Y to the carbon that lost H, and those are adjacent only in the beta case. This record therefore instantiates the beta-H route (four-membered transition state O2...C7-C8...H), which the text credits with ~20% of the H transfers; the alpha (~30%) and gamma (~50%) routes the text reports cannot be drawn as one concerted electron shift and are not encoded. Products: R\"-C3H5 (here 1-butene, C4H8, 56.0626) and HY(+)=CH(CH2)3R' (here protonated pentanal, CH3(CH2)3CH=O(+)H, C5H11O+, 87.0804). ARC COUNT: the book draws 4 arc(s), all single-barb fishhooks, arranged as two converging pairs between the two vertical bonds: the upper pair (one hook off the C-H bond, one hook off the Y-C bond) converges on the H...Y gap = the forming H-O2 bond; the lower pair (again one hook off each of those two bonds) converges inside the (C3H5) box = the forming C7=C8 pi bond. So each of the two breaking sigma bonds contributes one electron to each of the two new bonds - a balanced 4-electron shift. ENCODING LIMITATION: RDKit folds an atom-mapped explicit hydrogen back into its heavy atom's implicit-H count, so the migrating H cannot carry an atom map and every drawn hook that touches it is untranscribable as an ElectronMove. The moves below therefore re-express the drawn hooks at heavy-atom level; the H transfer itself is folded into the implicit-H counts of the two mapped atoms it moves between. Only one of the four hooks avoids the H: move <1> = O2-C7 -> C7-C8, transcribed verbatim. Move <2> repeats the same endpoints and is NOT a fifth arc: it is the re-decomposition standing in for the three untranscribable hooks (C8-H -> H-O2, C8-H -> C7=C8, O2-C7 -> H-O2), routing into the new pi bond, from the O2-C7 bond, the electron that the page takes from the invisible C8-H bond. Heavy-atom bookkeeping is identical to the drawing (O2-C7 -2e, C7-C8 +2e); the H transfer is folded into the implicit-H counts (C8: CH2 -> =CH, O2: gains H)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 143.143, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_87", "species_id": "protonated_pentanal_ion", "step_id": "step_rH_alkene_loss_to_heteroatom", "observed_mz": 87.0804, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
